US07208500B2
Intermediate 3a: N-(4,6-Dimethyl-pyridin-2-yl)-2-(4-methoxy-phenyl)-acetamide
was prepared from 4-methoxyphenylacetyl chloride and 2-amino-4,6-dimethylpyridine following Method B. 1H NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.73 (s, 1H), 7.24 (d, 2H, J=8.34 Hz), 6.91 (d, 2H, J=8.59 Hz), 6.70(s, 1H), 3.81 (s, 3H), 3.66 (s, 2H), 2.35 (s, 3H), 2.29 (s, 3H). LCMS (ESI+) [M+H]/z Calc'd 271, found 271.

reactant | 4-methoxyphenylacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | 2-amino-4,6-dimethylpyridine | NC1=NC(=CC(=C1)C)C | C7H10N2
product | N-(4,6-Dimethyl-pyridin-2-yl)-2-(4-methoxy-phenyl)-acetamide | CC1=CC(=NC(=C1)C)NC(CC1=CC=C(C=C1)OC)=O | C16H18N2O2
